US07714009B2
2-[(2,4-Dimethylphenyl)sulfinyl]-N,N-dipropyl-1,3-benzothiazol-7-amine (B)
3-Chloroperoxybenzoic acid (MCPBA) (20 mg, 0.0810 mmol) was added to a solution of 2-[(2,4-dimethylphenyl)thio]-N,N-dipropyl-1,3-benzothiazol-7-amine (30 mg, 0.0810 mmol) in dichloromethane (2 ml). The mixture was stirred at room temperature for 18 h and diluted with saturated NaHCO3. The organic layer was dried over magnesium sulfate and concentrated under vacuum. The residue was purified by chromatography eluting with 5% methanol in dichloromethane to afford 16 mg of the title compound.

reactant | 3-Chloroperoxybenzoic acid | 0.0810 mmol, 20 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 2-[(2,4-dimethylphenyl)thio]-N,N-dipropyl-1,3-benzothiazol-7-amine | 0.0810 mmol, 30 mg | CC1=C(C=CC(=C1)C)SC=1SC2=C(N1)C=CC=C2N(CCC)CCC | C21H26N2S2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-[(2,4-Dimethylphenyl)sulfinyl]-N,N-dipropyl-1,3-benzothiazol-7-amine | 16 mg | CC1=C(C=CC(=C1)C)S(=O)C=1SC2=C(N1)C=CC=C2N(CCC)CCC | C21H26N2OS2
